US08084484B2
e) ethyl 2-(4-(2-chloroacetamido)-3-hydroxyphenyl)propanoate
A solution of Ethyl 2-(4-amino-3-hydroxyphenyl)propanoate (101 mg, 0.483 mmol) in 4-methyl-2-pentanone (4 mL) was added chloroacetyl chloride (58 mg, 0.514 mmol) in 4-methyl-2-pentanone (2 mL) at room temperature. The reaction mixture was stirred for 12 hrs at 80° C. then cooled to room temperature. The mixture was diluted with H2O and extracted with EtOAc. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel using EtOAc:hexanes (1:2) as eluant.

reactant | Ethyl 2-(4-amino-3-hydroxyphenyl)propanoate | 0.483 mmol, 101 mg | NC1=C(C=C(C=C1)C(C(=O)OCC)C)O | C11H15NO3
reactant | chloroacetyl chloride | 0.514 mmol, 58 mg | ClCC(=O)Cl | C2H2Cl2O
solvent | 4-methyl-2-pentanone | 4 mL | CC(CC(C)=O)C | C6H12O
solvent | 4-methyl-2-pentanone | 2 mL | CC(CC(C)=O)C | C6H12O
solvent | H2O | O | H2O
product | ethyl 2-(4-(2-chloroacetamido)-3-hydroxyphenyl)propanoate | ClCC(=O)NC1=C(C=C(C=C1)C(C(=O)OCC)C)O | C13H16ClNO4
